US05668291
2,2'-Dithiobis[N-[4-nitro-3-(trifluoromethyl)phenyl]benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 4-nitro-3-(trifluoromethyl)aniline (2.39 g, 11.6 mmol) in 19 mL of pyridine. The crude product was recrystallized from ethyl ether to yield 0.25 g of the title compound, mp 167°-169° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-nitro-3-(trifluoromethyl)aniline | 11.6 mmol, 2.39 g | [N+](=O)([O-])C1=C(C=C(N)C=C1)C(F)(F)F | C7H5F3N2O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 19 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[4-nitro-3-(trifluoromethyl)phenyl]benzamide] | 0.25 g | [N+](=O)([O-])C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C(F)(F)F)C=CC=C1)=O)C(F)(F)F | C28H16F6N4O6S2
